US04264552
7.0% Oleyl alcohol
3.0% Manoxol OT at 100% (Sodium dioctylsulphosuccinate)

reactant | Manoxol OT | CCCCC(CC)COC(=O)CC(C(=O)OCC(CC)CCCC)S(=O)(=O)[O-].[Na+]
reactant | Sodium dioctylsulphosuccinate | C(CCCCCCC)C(C(C(=O)[O-])S(=O)(=O)O)(C(=O)[O-])CCCCCCCC.[Na+].[Na+]
product | Oleyl alcohol | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
